US09102654B2
Alternate Synthetic Route to: 3-Chloro-1(pyridin-3-yl)-1H-pyrazol-4-amine
A suspension of 3-(3-chloro-4-nitro-1H-pyrazol-1-yl)pyridine (1.00 g, 4.45 mmol) and palladium on carbon (10 wt %, 0.05 g, 0.467 mmol) in methanol (20 mL) was purged with nitrogen (N2) three times, followed by hydrogen three times. The reaction was stirred at 20° C. under 40 psi of hydrogen for 4 hours. After which time the reaction was purged with nitrogen three times and analyzed by thin layer chromatography [Eluent: 10% methanol/dichloromethane], which indicated that the reaction was complete. The reaction mixture was filtered through a Celite® pad and the pad was rinsed with methanol (2×10 mL). The filtrates were concentrated to dryness to afford a slightly pink solid (0.82 g, 95%). The spectral characterization was in agreement with the product prepared previously.

reactant | 3-(3-chloro-4-nitro-1H-pyrazol-1-yl)pyridine | 4.45 mmol, 1.00 g | ClC1=NN(C=C1[N+](=O)[O-])C=1C=NC=CC1 | C8H5ClN4O2
catalyst | palladium on carbon | 0.467 mmol, 0.05 g | [Pd] | Pd
solvent | methanol | 20 mL | CO | CH4O
product | 3-Chloro-1(pyridin-3-yl)-1H-pyrazol-4-amine | 0.82 g, 95% | ClC1=NN(C=C1N)C=1C=NC=CC1 | C8H7ClN4
